US06440987B1
17-cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-17-methyl-6β-(N-methyl-trans-3-(3-furyl)acrylamido)morphinanium iodide (1):
17-cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-6β-(N-methyl-trans-3-(3-furyl)acrylamido)morphinan 2.0699 g (4.3 mmol), ethyl acetate 60 ml, methanol 6 ml, and methyl iodide 1.3 ml were placed together in a container to be sealed, and, while being sealed, was stirred at 100° C. for four days. To the reaction solution was added methanol 60 ml; the precipitated solid was dissolved and concentrated; and to the resulting residue was added distilled water 400 ml. This aqueous solution was washed with chloroform (100 ml×7); the water phase was concentrated; the resulting residue was recrystallized from ethyl acetate-methanol; and the resulting crystal was dissolved in distilled water 500 ml. This aqueous solution was washed with chloroform (100 ml×3); the water phase was concentrated; the resulting residue was recrystallized three times from methanol; and the compound in the title 102 mg was obtained.

reactant | 17-cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-6β-(N-methyl-trans-3-(3-furyl)acrylamido)morphinan | 4.3 mmol, 2.0699 g | C1(CC1)CN1[C@H]2[C@@]3(CC[C@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)N(C(\C=C\C1=COC=C1)=O)C)O | C28H32N2O5
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | methyl iodide | 1.3 ml | CI | CH3I
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
product | 17-cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-17-methyl-6β-(N-methyl-trans-3-(3-furyl)acrylamido)morphinanium iodide | [I-].C1(CC1)C[N+]1([C@H]2[C@@]3(CC[C@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)N(C(\C=C\C1=COC=C1)=O)C)O)C | InChI=1S/C29H34N2O5.HI/c1-30(24(33)8-5-19-10-14-35-17-19)21-9-11-29(34)23-15-20-6-7-22(32)26-25(20)28(29,27(21)36-26)12-13-31(23,2)16-18-3-4-18;/h5-8,10,14,17-18,21,23,27,34H,3-4,9,11-13,15-16H2,1-2H3;1H/b8-5+;/t21-,23-,27+,28+,29-,31?;/m1./s1
